US07615562B2
Step C: {4-[5-(4-Methoxy-butyl)-thiophen-2-yl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine hydrochloride
A solution of 2-(4-methoxy-butyl)-thiophene (527 mg, 3.1 mmol) in 10 ml of THF was treated with LDA (2.3 ml of 1.5M solution in cyclohexane, 3.4 mmol) at −78° C. under nitrogen and the mixture was stirred for 5 minutes. Then, trimethylborate (0.379 ml, 3.4 mmol) was added in one portion and the cooling bath was removed. After 15 minutes, the mixture was quenched with 10 ml of saturated ammonium chloride solution and extracted twice with ether. The aqueous layer was then acidified with 2N-HCl and extracted once more with ether. The combined organic extracts were washed with water and brine and evaporated. This crude boronic acid was redissolved in 5 ml of DME and added to a stirred suspension of (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine (416 mg, 1.55 mmol), Pd(PPh3)4 (36 mg, 0.031 mmol), 10 ml of DME and 5 ml of a 10% solution of sodium bicarbonate. This mixture was then kept at reflux (100° C. heat bath) for 90 minutes. After cooling, most of the DME was evaporated and the crude was partitioned between 2N-HCl and ether. The aqueous layer was separated, made basic with 2N-NaOH and extracted twice with ether and once with DCM. The combined organic layers were washed with water and brine, dried over sodium sulfate and evaporated. The crude oil was purified by preparative HPLC and converted into its hydrochloride salt by addition of excess of 3M-HCl solution in EtOAc. Yield: 494 mg (73%).

reactant | 2-(4-methoxy-butyl)-thiophene | 3.1 mmol, 527 mg | COCCCCC=1SC=CC1 | C9H14OS
reactant | LDA | 3.4 mmol, 1.5M, 2.3 ml | [Li+].CC(C)[N-]C(C)C
reactant | trimethylborate | 3.4 mmol, 0.379 ml | COB(OC)OC | C3H9BO3
reactant | (4-chloro-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | 1.55 mmol, 416 mg | ClC1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C13H21ClN4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.031 mmol, 36 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | COCCOC | C4H10O2
solvent | DME | 10 ml | COCCOC | C4H10O2
product | {4-[5-(4-Methoxy-butyl)-thiophen-2-yl]-pyrimidin-2-yl}-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine hydrochloride | Cl.COCCCCC1=CC=C(S1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | InChI=1S/C22H34N4OS.ClH/c1-21(2)14-16(15-22(3,4)26-21)24-20-23-12-11-18(25-20)19-10-9-17(28-19)8-6-7-13-27-5;/h9-12,16,26H,6-8,13-15H2,1-5H3,(H,23,24,25);1H
